US06730674B2
6-(2-Hydroxy-benzenesulfonyl)-2H-pyridazin-3-one
A mixture of 6-(2-methoxy-benzenesulfonyl)-2H-pyridazin-3-one (100 mg) and aluminum tri-bromide (2 g) was prepared and heated at 100° C. for two hours. The reaction mixture was cooled and water (10 mL) was added. The mixture was then extracted with chloroform. The organic extract was washed with water (2×10 mL), dried over anhydrous sodium sulfate and evaporated. The resulting residue was triturated with isopropyl ether and the resulting solid was collected by filtration to afford the title compound (61%, 58 mg), 1HNMR (CDCl3, 300 MHz), δ 7.0 (m, 3H), 7.6 (m, 2H), 7.8 (d, 1H).

reactant | 6-(2-methoxy-benzenesulfonyl)-2H-pyridazin-3-one | 100 mg | COC1=C(C=CC=C1)S(=O)(=O)C=1C=CC(NN1)=O | C11H10N2O4S
reactant | aluminum tri-bromide | 2 g | [Br-].[Br-].[Br-].[Al+3]
solvent | water | 10 mL | O | H2O
product | 6-(2-Hydroxy-benzenesulfonyl)-2H-pyridazin-3-one | 58 mg, 61% | OC1=C(C=CC=C1)S(=O)(=O)C=1C=CC(NN1)=O | C10H8N2O4S
